US04939241
A solution of benzyl N-trifluoroacetyl-O-[2-benzyloxycarbonylamino-3-(2-tetrahydropyranyloxy)-4,4,4-trifluoro-1-oxobutyl]-L-serine (1.36 g) and p-toluenesulfonic acid monohydrate (39 mg) in methanol (14 ml) was stirred overnight. The solvent was distilled off and the residue was diluted with ethyl acetate and washed successively with 10% aqueous sodium hydrogen carbonate and brine. After drying over sodium sulfate, the ethyl acetate extract was filtered and concentrated. The residue was dissolved in acetic acid (50 ml) and 10% palladium on activated carbon (500 mg) was added. The mixture was hydrogenated under hydrogen at 40 psi at room temperature for an hour. The solvent was distilled off and the residue was lyophilized to give O-(2-amino-3-hydroxy-4,4,4-trifluoro-1-oxobutyl)-N-trifluoroacetyl-L-serine (685 mg).

reactant | benzyl N-trifluoroacetyl-O-[2-benzyloxycarbonylamino-3-(2-tetrahydropyranyloxy)-4,4,4-trifluoro-1-oxobutyl]-L-serine | 1.36 g | C(C1=CC=CC=C1)N([C@@H](COC(C(C(C(F)(F)F)OC1OCCCC1)NC(=O)OCC1=CC=CC=C1)=O)C(=O)O)C(C(F)(F)F)=O | C29H30F6N2O9
reactant | p-toluenesulfonic acid monohydrate | 39 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 14 ml | CO | CH4O
product | O-(2-amino-3-hydroxy-4,4,4-trifluoro-1-oxobutyl)-N-trifluoroacetyl-L-serine | 685 mg | NC(C(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)O)C(C(F)(F)F)O | C9H10F6N2O6
